US08975398B2
tert-butyl 4-((4-(1-(5,6-dichloropyridazin-4-yl)azetidine-3-carboxamido)phenyl)sulfonyl)piperidine-1-carboxylate
To 3,4,5-trichloropyridazine (1.624 g, 8.85 mmol) and N-ethyl-N-isopropylpropan-2-amine (2.289 g, 17.71 mmol) in 50 mL N,N-dimethylformamide at 0° C. was added tert-butyl 4-(4-(azetidine-3-carboxamido)phenylsulfonyl)piperidine-1-carboxylate (2.5 g, 5.90 mmol) in 10 ml N,N-dimethylformamide, dropwise. The reaction mixture was stirred from 0° C. to room temperature overnight, diluted with water and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered, concentrated and purified by flash chromatography to give the title compound.

reactant | 3,4,5-trichloropyridazine | 8.85 mmol, 1.624 g | ClC=1N=NC=C(C1Cl)Cl | C4HCl3N2
reactant | N-ethyl-N-isopropylpropan-2-amine | 17.71 mmol, 2.289 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 4-(4-(azetidine-3-carboxamido)phenylsulfonyl)piperidine-1-carboxylate | 5.90 mmol, 2.5 g | N1CC(C1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O5S
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4-((4-(1-(5,6-dichloropyridazin-4-yl)azetidine-3-carboxamido)phenyl)sulfonyl)piperidine-1-carboxylate | ClC=1C(=CN=NC1Cl)N1CC(C1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C24H29Cl2N5O5S
